US05559111
b) 3-Benzyloxycarbonylamino-2,2-dimethyl-N-methylpropionic acid amide
4.19 g of 3-benzyloxycarbonylamino-2,2-dimethylpropionic acid ethyl ester and 50 ml of 33% methylamine (in ethanol) are stirred for 8 days at 60° C. in a bomb tube. The reaction mixture is concentrated by evaporation and the residue is purified by FC (220 g of silica gel, dichloromethane/methanol=95:5). The title compound is obtained: Rf (dichloromethane/methanol=9:1)=0.51.

reactant | 3-benzyloxycarbonylamino-2,2-dimethylpropionic acid ethyl ester | 4.19 g | C(C)OC(C(CNC(=O)OCC1=CC=CC=C1)(C)C)=O | C15H21NO4
reactant | methylamine | 50 ml | CN | CH5N
product | 3-Benzyloxycarbonylamino-2,2-dimethyl-N-methylpropionic acid amide | C(C1=CC=CC=C1)OC(=O)NCC(C(=O)NC)(C)C | C14H20N2O3
